US04985348
(1) Synthesis of 2-mercapto-5-phenoxycarbonylamino1,3,4-thiadiazole
61 g of 2-amino-5-mercapto-1,3,4-thiadiazole were dissolved in 230 ml of dimethylacetamide, and 40.8 ml of pyridine were added thereto. The resulting solution was cooled to a temperature not higher than 0° C., and 79 g of phenyl chlorocarbonate were added dropwise thereto. After completion of the dropwise addition, the solution was stirred for 1.5 hours at a temperature not higher than 0° C., and the reaction mixture was then poured into 1 liter of ice-water. Precipitated crystals were collected by filtration and recrystallized from acetonitrile to obtain the desired product.

reactant | 2-amino-5-mercapto-1,3,4-thiadiazole | 61 g | NC=1SC(=NN1)S | C2H3N3S2
reactant | pyridine | 40.8 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl chlorocarbonate | 79 g | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
solvent | dimethylacetamide | 230 ml | CC(=O)N(C)C | C4H9NO
product | 2-mercapto-5-phenoxycarbonylamino1,3,4-thiadiazole | SC=1SC(=NN1)NC(=O)OC1=CC=CC=C1 | C9H7N3O2S2
